US04153722
p-Chlorophenylhydroxylamine (0.05 moles) was dissolved in warm 95% ethanol (20 cc) and was treated with p-bromobenzaldehyde (0.05 moles) with vigorous stirring. The solid which formed was collected, washed with 95% ethanol, and was recrystallized from ethanol to give α-p-bromophenyl-N-p-chlorophenylnitrone.

reactant | p-Chlorophenylhydroxylamine | 0.05 moles | ClC1=CC=C(C=C1)NO | C6H6ClNO
reactant | p-bromobenzaldehyde | 0.05 moles | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | α-p-bromophenyl-N-p-chlorophenylnitrone | BrC1=CC=C(C=C1)C=[N+]([O-])C1=CC=C(C=C1)Cl | C13H9BrClNO
